US09340547B2
b) 1-Amino-N-o-tolyl-1H-imidazole-2-carboxamide
240 mg (6.02 mmol) of sodium hydride (60% dispersion in mineral oil) were added to a 0° C. cooled solution of N-o-tolyl-1H-imidazole-2-carboxamide (0.93 g, 4.63 mmol) in DMF (120 mL). The mixture was stirred at 0° C. for 30 minutes and DPPONH2 (1.51 g, 6.49 mmol, available from Sigma Aldrich®, cat. no. 5994-87-6) was added portionwise. The mixture was stirred at room temperature for 2 hours and then it was poured into 200 mL of a saturated aqueous solution of sodium thiosulphate and extracted with ethyl acetate. The combined organic layer was dried over sodium sulphate, filtered and concentrated. The crude product was purified by flash chromatography (20% to 50% AcOEt/Hexanes) to yield 0.55 g (55%) of the title compound as a beige solid.

reactant | sodium hydride | 6.02 mmol, 240 mg | [H-].[Na+]
reactant | N-o-tolyl-1H-imidazole-2-carboxamide | 4.63 mmol, 0.93 g | C1(=C(C=CC=C1)NC(=O)C=1NC=CN1)C | C11H11N3O
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 1-Amino-N-o-tolyl-1H-imidazole-2-carboxamide | 0.55 g, 55% | NN1C(=NC=C1)C(=O)NC1=C(C=CC=C1)C | C11H12N4O
